US05750526
406 mg of 9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester in 2 ml of glacial acetic acid is mixed with 0.05 ml of water, 0.025 ml of concentrated sulfuric acid, 178 mg of iodine and 70 mg of iodic acid and stirred for 15 hours at 80° C. bath temperature. After concentration by evaporation, it is mixed with water and the product is suctioned off. 60 mg of 8-iodo-9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid of melting point 307° C. (with decomposition) is obtained.

reactant | 9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester | 406 mg | C(C)OP(OCC)(=O)C1CCC=2C=3N1C(C(NC3C=C(C2)C(F)(F)F)=O)=O | C16H18F3N2O5P
reactant | sulfuric acid | 0.025 ml | S(O)(O)(=O)=O | H2O4S
reactant | iodine | 178 mg | II | I2
reactant | iodic acid | 70 mg | I(=O)(=O)O | HIO3
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.05 ml | O | H2O
product | 8-iodo-9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid | 60 mg | IC1=C2C=3N(C(C(NC3C=C1C(F)(F)F)=O)=O)C(CC2)P(O)(=O)O | C12H9F3IN2O5P
